US04133885
A mixture of the free base of 1-(2-aminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one (700 mg., 0.0032 mole) as prepared in Example 12 and methyl isothiocyanate (180 mg., 0.004 mole) in 5 ml. of water is heated at reflux for 30 minutes. On cooling the reaction, the product is collected by filtration. After recrystallization from methanol, 1-{2-[(N-methylthiocarbamoyl)amino]ethyl}-5,7-dimethyl-1,8-naphthyridin-2(1H)-one m.p. 216.5-218° C. is obtained.

reactant | 1-(2-aminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one | 0.0032 mole, 700 mg | NCCN1C(C=CC2=C(C=C(N=C12)C)C)=O | C12H15N3O
reactant | methyl isothiocyanate | 0.004 mole, 180 mg | CN=C=S | C2H3NS
solvent | water | O | H2O
product | 1-{2-[(N-methylthiocarbamoyl)amino]ethyl}-5,7-dimethyl-1,8-naphthyridin-2(1H)-one | CNC(=S)NCCN1C(C=CC2=C(C=C(N=C12)C)C)=O | C14H18N4OS
